US08492405B2
To a mixture of 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid (1.0 g), 2-(benzylthio)-3,3-dimethoxypropan-1-amine (720 mg), 1H-1,2,3-benzotriazol-1-ol (450 mg), tetrahydrofuran (10 mL) and acetonitrile (10 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (570 mg), and the mixture was stirred at room temperature for 30 min. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give a colorless oil. To a solution of triphenylphosphine oxide (252 mg) in dichloromethane (3 mL) was slowly added trifluoromethanesulfonic anhydride (76 μL) at 0° C., the mixture was stirred for 10 min, and the colorless oil was added. The mixture was stirred at room temperature for 3 hr and concentrated. Saturated aqueous sodium hydrogen carbonate was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give N-{5-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl}-N-methylthiophene-2-sulfonamide (245 mg, yield 27%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:1, volume ratio). melting point 185° C.

reactant | 2-methyl-3-[methyl(2-thienylsulfonyl)amino]-4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 1.0 g | CC1=C(C=2NC(=CC2S1)C(=O)O)N(S(=O)(=O)C=1SC=CC1)C | C13H12N2O4S3
reactant | 2-(benzylthio)-3,3-dimethoxypropan-1-amine | 720 mg | C(C1=CC=CC=C1)SC(CN)C(OC)OC | C12H19NO2S
reactant | 1H-1,2,3-benzotriazol-1-ol | 450 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 570 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | triphenylphosphine oxide | 252 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 76 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-{5-[5-(dimethoxymethyl)-4,5-dihydro-1,3-thiazol-2-yl]-2-methyl-4H-thieno[3,2-b]pyrrol-3-yl}-N-methylthiophene-2-sulfonamide | 245 mg, yield 27% | COC(C1CN=C(S1)C1=CC2=C(N1)C(=C(S2)C)N(S(=O)(=O)C=2SC=CC2)C)OC | C18H21N3O4S4
